US07507740B2
To a solution of 2,2′-oxydiethanol (2.12 g) in pyridine (20 mL) was added benzoic anhydride (4.52 g) by small portions under ice-cooling, and the reaction mixture was stirred while warming to room temperature for 18 hrs. Pyridine was evaporated under reduced pressure and the obtained residue was diluted with diethyl ether (20 mL). 5% Aqueous sodium hydrogen carbonate solution (100 mL) was added, and the mixture was extracted with diethyl ether (100 mL×3). The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel chromatography (eluent:hexane/ethyl acetate=95/5→40/60). The object fraction was concentrated under reduced pressure and dried to give 2-(2-hydroxyethoxy)ethyl benzoate (2.21 g). To a solution of the obtained 2-(2-hydroxyethoxy)ethyl benzoate (2.10 g) in dichloromethane (10 mL) were added 1-iodopyrrolidine-2,5-dione (2.70 g) and triphenylphosphine (3.14 g) by small portions under ice-cooling, and the mixture was stirred for 14 hrs. The reaction mixture was poured into 5% aqueous sodium hydrogen carbonate solution (100 mL), and extracted with ethyl acetate (120 mL×3). The organic layer washed successively with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel chromatography (eluent:hexane/ethyl acetate=100/0→60/40). The object fraction was concentrated under reduced pressure and dried to give 2-(2-iodoethoxy)ethyl benzoate (2.05 g) as a colorless transparent oil.

reactant | 2,2′-oxydiethanol | 2.12 g | O(CCO)CCO | C4H10O3
reactant | benzoic anhydride | 4.52 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-hydroxyethoxy)ethyl benzoate | 2.21 g | C(C1=CC=CC=C1)(=O)OCCOCCO | C11H14O4
